US07550473B2
Synthesis of 4-[(4-aminomethyl-cyclohexylmethyl)-amino]-2-(2-chloro-benzylamino)-pyrimidine-5-carboxylic acid
To a solution of 4-{[4-(tert-butoxycarbonylamino-methyl)-cyclohexylmethyl]-amino}-2-(2-chloro-benzylamino)-pyrimidine-5-carboxylic acid (80 mg, 0.159 mmol) dissolved in 2:1 CHCl3:EtOH at room temperature was added 4.0 M HCl/dioxane (5.0 mL). The mixture was stirred at room temperature for 2 h then concentrated in vacuo to provide a crude white powder. The crude material was purified by preparative scale reverse phase HPLC using a 0.1% TFA-H2O/CH3CN mobile phase. The product-containing fractions were combined and concentrated in vacuo to provide 34 mg of the title compound as a white solid, 53%, m/z calculated for C20H26ClN5O2: 403.9, found: 404.4 (M+H)+.

reactant | 4-{[4-(tert-butoxycarbonylamino-methyl)-cyclohexylmethyl]-amino}-2-(2-chloro-benzylamino)-pyrimidine-5-carboxylic acid | 0.159 mmol, 80 mg | C(C)(C)(C)OC(=O)NCC1CCC(CC1)CNC1=NC(=NC=C1C(=O)O)NCC1=C(C=CC=C1)Cl | C25H34ClN5O4
reactant | EtOH | CCO | C2H6O
reactant | HCl dioxane | 4.0 M, 5.0 mL | Cl.O1CCOCC1
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 4-[(4-aminomethyl-cyclohexylmethyl)-amino]-2-(2-chloro-benzylamino)-pyrimidine-5-carboxylic acid | 34 mg | NCC1CCC(CC1)CNC1=NC(=NC=C1C(=O)O)NCC1=C(C=CC=C1)Cl | C20H26ClN5O2
